US06512020B1
122 g (0.46 mol) of 2,2,2-trifluoro-1-(4-phenoxyphenyl)-ethanone are dissolved in 370 ml of ethanol and heated at 80° C. To the solution are added 33.3 g (0.48 mol) of hydroxylammonium chloride and 63.7 g (0.78 mol) of sodium acetate dissolved in 190 ml of water. The reaction mixture is refluxed for 5.5 hours, and poured into water. A pale yellow solid is precipitated. The solid is isolated by filtration and rinsed with water, and added in hexane and heated at 60° C. for 20 min. After cooling, the solid is isolated and rinsed with hexane, yielding 109 g of 2,2,2-trifluoro-1-(4-phenoxyphenyl)-ethanone oxime as a white solid. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 7.00-7.10 (m, 4H), 7.18 (t, 1H), 7.39 (t, 2H), 7.55 (d, 2H), 9.35 (br s, 1H).

reactant | 2,2,2-trifluoro-1-(4-phenoxyphenyl)-ethanone | 0.46 mol, 122 g | FC(C(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)(F)F | C14H9F3O2
reactant | hydroxylammonium chloride | 0.48 mol, 33.3 g | [Cl-].O[NH3+]
reactant | sodium acetate | 0.78 mol, 63.7 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 370 ml | C(C)O | C2H6O
solvent | water | 190 ml | O | H2O
product | 2,2,2-trifluoro-1-(4-phenoxyphenyl)-ethanone oxime | 109 g | FC(C(=NO)C1=CC=C(C=C1)OC1=CC=CC=C1)(F)F | C14H10F3NO2
